US04616014
Sodium borohydride (3.4 g) was added portionwise to a stirred solution of 5-methyl-3-methylthio-6-phenyl-1,2,4-triazine (10 g) in tetrahydrofuran (25 ml). To the reaction mixture was added ethyl acetate, and the mixture was washed successively with 1N-hydrochloric acid, water and brine, dried over sodium sulfate, and concentrated to dryness. The residual solid was recrystallized from a mixture of ethanol and water to give 5-methyl-3-methylthio-6-phenyl-2,5-dihydro-1,2,4-triazine (3.46 g), m.p. 159°~160° C.

reactant | Sodium borohydride | 3.4 g | [BH4-].[Na+]
reactant | 5-methyl-3-methylthio-6-phenyl-1,2,4-triazine | 10 g | CC=1N=C(N=NC1C1=CC=CC=C1)SC | C11H11N3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 5-methyl-3-methylthio-6-phenyl-2,5-dihydro-1,2,4-triazine | 3.46 g | CC1N=C(NN=C1C1=CC=CC=C1)SC | C11H13N3S
